US07592363B2
2-(2,4-DIFLUOROBENZYL)-3-PYRIDIN-2-YL-7-(TRIFLUOROMETHYL)-2H-INDAZOLE
Then a solution of 3-pyridin-2-yl-7-(trifluoromethyl)-2H-indazole (0.183 g, 0.7 mmol) and 2,4,6-trifluorobenzyl bromide (0.203 g, 0.9 mmol) in DMF (5 mL) was heated at 120° C. After 5 days, the reaction mixture was partitioned with EtOAc and water. Organics were washed with water (3×), then brine and dried over MgSO4, then stripped and the resulting crude product was flashed by reverse phase HPLC to afford the title compound (0.033 g, 5%).

reactant | 3-pyridin-2-yl-7-(trifluoromethyl)-2H-indazole | 0.7 mmol, 0.183 g | N1=C(C=CC=C1)C=1NN=C2C(=CC=CC12)C(F)(F)F | C13H8F3N3
reactant | 2,4,6-trifluorobenzyl bromide | 0.9 mmol, 0.203 g | FC1=C(CBr)C(=CC(=C1)F)F | C7H4BrF3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(2,4-DIFLUOROBENZYL)-3-PYRIDIN-2-YL-7-(TRIFLUOROMETHYL)-2H-INDAZOLE | 0.033 g, 5% | FC1=C(CN2N=C3C(=CC=CC3=C2C2=NC=CC=C2)C(F)(F)F)C=CC(=C1)F | C20H12F5N3
